capacitive bandpass filter 
v1 1 0 dc 0 ac 1 ; sin 
r1 1 2 200      
c1 2 0 5u     
c2 2 3 1u       
rload 3 0 1k    
.ac lin 50 20 1000      
.plot ac v(3)
.control
run
plot db(v(3)) xlog xlimit 10 1000
.endc
.end
